US08633175B2
Intermediate I-IX-7: 2-[4-iodo-2-(trifluoromethyl)phenyl]-1,3-dioxolane
To a solution of 4-iodo-2-(trifluoromethyl)benzonitrile (1.89 g; 6.38 mmol, Note 1) in CH2Cl2 (15 mL) at −40° C. was added DIBAL-H (9.6 mL of a 1.0M solution in CH2Cl2; 9.6 mmol), dropwise over 5 min. The mixture was stirred 30 min, quenched by dropwise addition of MeOH and removed from the cooling bath. To the still-cold mixture was slowly added HCl (10 mL of a 6M solution), and after stirring 30 min at room temperature the layers were separated. The aqueous layer was extracted with CH2Cl2 (×2), combined organics were washed (water, brine), dried over Na2SO4 and concentrated in vacuo. The residue was dissolved in PhH (15 mL), along with TsOH.H2O (0.12 g; 0.64 mmol) and ethylene glycol (3.5 mL; 63 mmol), and the solution was heated under reflux for 2 h using a Dean-Stark trap to remove water. Upon cooling, the mixture was diluted with <solvent>, washed (water, brine), dried over Na2SO4, and concentrated in vacuo. The residue was purified by flash chromatography (EtOAc/hexanes), affording the title compound as a pale yellow oil. 1H NMR (400 MHz, CDCl3) δ ppm 4.00-4.11 (m, 2H), 4.11-4.24 (m, 2H), 6.06 (s, 1H), 7.54 (d, J=8.4 Hz, 1H), 7.93 (d, J=8.4 Hz, 1H), 7.99 (s, 1H).

reactant | 4-iodo-2-(trifluoromethyl)benzonitrile | 6.38 mmol, 1.89 g | IC1=CC(=C(C#N)C=C1)C(F)(F)F | C8H3F3IN
reactant | DIBAL-H | CC(C)C[AlH]CC(C)C
reactant | TsOH.H2O | 0.64 mmol, 0.12 g | CC=1C=CC(=CC1)S(=O)(=O)O.O
reactant | ethylene glycol | 63 mmol, 3.5 mL | C(CO)O | C2H6O2
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | PhH | 15 mL | C1=CC=CC=C1 | C6H6
product | 2-[4-iodo-2-(trifluoromethyl)phenyl]-1,3-dioxolane | IC1=CC(=C(C=C1)C1OCCO1)C(F)(F)F | C10H8F3IO2
